2126-11-01 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * TSH slightly elevated (4.7)
     * mental status waxed and waned but BS was stable low to mid 100's
     * Rheum saw patient, recommended d/c azothiaprine, continue
       prednisone, consulting renal RE HD (they think patient not clearing
       insulin -> hypoglycemia (do not think it is actually due to
       anti-insuliln receptor syndrome)
     * Head CT read negative
     * Given Lasix 80 IV, put out moderate amount of urine
     * T&S ordered
     * Hct 23.6 -> 18.4
   Allergies:
   Tapazole (Oral) (Methimazole)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2126-10-31**] 11:15 AM
   Heparin Sodium (Prophylaxis) - [**2126-10-31**] 11:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-1**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 77 (62 - 80) bpm
   BP: 147/68(88) {132/62(79) - 164/85(107)} mmHg
   RR: 12 (9 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,525 mL
                                                                    483 mL
   PO:
             TF:
   IVF:
                                                                  1,325 mL
                                                                    483 mL
   Blood products:
   Total out:
                                                                  2,290 mL
                                                                    570 mL
   Urine:
                                                                  2,290 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -765 mL
                                                                    -87 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.38/49/248/27/3
   Physical Examination
   General Appearance: Well nourished, No(t) Anxious
   Eyes / Conjunctiva: PERRL, periorbital edema
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), +JVD
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: upper airway sounds)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Unresponsive, Movement: No
   spontaneous movement, Tone: Decreased
   Labs / Radiology
   139 K/uL
   6.7 g/dL
   137 mg/dL
   6.2 mg/dL
   27 mEq/L
   3.9 mEq/L
   104 mg/dL
   103 mEq/L
   139 mEq/L
   18.4 %
   4.8 K/uL
        [image002.jpg]
                             [**2126-10-31**]  09:45 AM
                             [**2126-10-31**]  04:43 PM
                             [**2126-11-1**]  04:13 AM
   WBC
   4.8
   Hct
   18.4
   Plt
   139
   Cr
   6.4
   6.2
   TCO2
   30
   Glucose
   75
   111
   137
   Other labs: Lactic Acid:0.5 mmol/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL,
   PO4:5.1 mg/dL
   Assessment and Plan:
   55 year old male with a history of type 1 diabetes due to insulin
   receptor autoantibody syndrome on immunosupression, chronic kidney
   disease who is admitted for hypoglycemia and altered mental status.
   .
   # altered mental status: most likely due to hypoglycemia given prior
   history of similar events. In the past, has taken time for mental
   status to recover despite normal FSBGs. Head CT negative. Small opacity
   at R lung base, ? aspiration in the setting of altered MS but no
   evidence of infection.  ABG checked with current somnolent MS showed
   patient adequately oxygenating and ventilating.
   - D5W gtt with Q1H FSBGs
   - hold lantus for now
   - insulin receptor autoAb syndrome management as below
   - close monitoring of MS to ensure no need for intubation
   - close monitoring of facial swelling as below
   .
   # hypoglycemia: likely due to insulin receptor autoantibody syndrome.
   h/o multiple hypoglycemic events attributed to syndrome. Followed by
   endocrinology and rheumatology. Currently resolved
   - D5W gtt with Q1H FSBGs and hold lantus as above
   - consult endocrinology and Rheumatology
   - cont azathioprine and prednisone and regular doses for now
   .
   # facial edema: unclear cause. According to ED physicians and
   respiratory therapists who know patient well, these are not new
   findings. ? angioedema although no new meds recently. No on ace-i/ [**Last Name (un) 239**]
   or NSAIDS. Is on baby asa. ? C1 inhibitor deficiency given chronicity.
   ? SVC syndrome. Does have JVD but only minimal UE swelling and no prior
   history to suggest this diagnosis. Lip and facial swelling raising risk
   of airway compromise and cannot evaluate airway currently.
   - follow closely for now
   - lasix 80 mg IV x 1 now
   - check TSH
   - hold asa
   - avoid unneccessary IVF
   - cont current steroid regimen
   - no antihistimines for now given altered MS to avoid further sedation
   - low threshold for intubation
   .
   # hypothermia: most likely due to hypoglycemia. No evidence of
   infection currently. No h/o drug or EtOH abuse. H/o hypothyroid but has
   been compliant with meds. Now corrected.
   - check TSH
   - hyoglycemia management as above
   .
   # Diabetes Mellitus: type 1, since age 16 on insulin. As above,
   frequent hypoglycemic episodes attributed to anti-insulin Ab.
   - management as above
   - holding lantus
   - ISS
   .
   # hypertension: hypertensive currently and h/o more significant
   hypertension in past. On multiple medications c/b LVH and diastolic
   CHF.
   - cont clonidine, minoxidil, diltiazem, toprol XL, doxazosin with
   holding parameters
   .
   # Chronic diastolic heart failure with LVH: currently euvolemic. No
   evidence of decompensated CHF. No current evidence of ischemia.
   - cont diltiazem and toprol XL
   - strict HR and BP control
   - strict I/Os, daily weights
   - hold home lasix for now and IV lasix as above
   .
   # Chronic kidney disease: Cr close to most recent baseline. Appears
   euvolemic.
   - follow daily weights and I/Os
   - cont sevelamer
   - renally dose all meds
   - add on Ca, Mg, Phos
   .
   # Anemia: attributed to chronic kidney disease. Most recent baseline
   low to mid 20s, highest low 30s. Currently within most recent baseline.
   No evidence of bleeding currently.
   - QD Hct unless evidence of bleeding
   - T+S
   - guiaic all stools
   .
   # Hypothyroidism: h/o [**Doctor Last Name 598**] Disease per prior reports.
   - check TSH
   - cont levothyroxine
   .
   # Hyperlipidemia: cont statin
   .
   # FEN: NPO for now until clear intubation not required. Then ADAT to
   low salt, renal diet
   - nephrocaps, iron
   - calcium, calcitriol
   .
   # PPx: heparin sc. PPI as on steroids. Bowel regimen.
   - cont Bactrim per outpt dose given immunosuppression
   .
   # ACCESS: 18G & 20G PIV
   .
   # CODE: FULL
   .
   # COMM: [**Name (NI) 338**] [**Name (NI) 3636**] (sister) listed as contact in [**Name (NI) 1163**],
   [**Telephone/Fax (1) 3637**] (work), [**Telephone/Fax (1) 3638**]. Could not be contact[**Name (NI) **]
   .
   # DISP: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-10-31**] 10:18 AM
   18 Gauge - [**2126-10-31**] 10:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   Critical Care
   Present for key portions of history and exam. Agree with plan as
   outlined above by Dr. [**Last Name (STitle) 6606**].  Major goal now is to resolve
   planning for dialysis and long term care before he leaves the hospital.
   I believe his cognitive dysfunction is more significant than
   immediately apparent and may be limiting his ability to comply with his
   plan of care. In any case, he is at significant risk of death from his
   recurrent episodes of hypoglycemia and we should make a major effort to
   see if we can get him into an acceptable arrangement re his care.
   Time spent 45 min

2126-11-01 17:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TSH elevated, sent out fT4
   Mental status waxed, waned but BS was stable low to mid 100s
   Rheum saw pt, recs: d/c azothiaprine, continue prednisone, consult
   renal re: HD
   Head CT negative for ICH
   Lasix 80mg IV put out moderate amt of urine
   T&S ordered
   HCT 23.6- 18.4
   Allergies:
   Tapazole (Oral) (Methimazole)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-10-31**] 11:22 PM
   Furosemide (Lasix) - [**2126-11-1**] 12:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-1**] 05:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 81 (71 - 85) bpm
   BP: 146/67(85) {132/62(79) - 167/81(100)} mmHg
   RR: 15 (10 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,526 mL
                                                                  1,190 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                  1,326 mL
                                                                    990 mL
   Blood products:
   Total out:
                                                                  2,290 mL
                                                                  1,680 mL
   Urine:
                                                                  2,290 mL
                                                                  1,680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -764 mL
                                                                   -490 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   HEENT: NCAT, facial swelling symmetric and decreased since yesterday,
   pink conjunctiva, anicteric
   CV: RRR S1S2 no mrg
   PULM: clear with scant rhonchi at mid-lung fields
   ABD: soft, nontender, good bowel sounds
   EXT: 2+ pitting bipedal edema to ankles, 1+ dp pulses 2+ radial pulses
   symmetric
   NEURO: A&Ox3
   Labs / Radiology
   139 K/uL
   6.7 g/dL
   310 mg/dL
   6.2 mg/dL
   28 mEq/L
   4.1 mEq/L
   101 mg/dL
   101 mEq/L
   139 mEq/L
   20.1 %
   4.8 K/uL
        [image002.jpg]
                             [**2126-10-31**]  09:45 AM
                             [**2126-10-31**]  04:43 PM
                             [**2126-11-1**]  04:13 AM
                             [**2126-11-1**]  05:24 AM
                             [**2126-11-1**]  04:07 PM
   WBC
   4.8
   Hct
   18.4
   20.1
   Plt
   139
   Cr
   6.4
   6.2
   6.2
   TCO2
   30
   Glucose
   75
   111
   137
   310
   Other labs: Lactic Acid:0.5 mmol/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL,
   PO4:5.2 mg/dL
   FS  155   215
   Assessment and Plan
   55 year old male with a history of type 1 diabetes due to insulin
   receptor autoantibody syndrome on immunosupression, chronic kidney
   disease who is admitted for hypoglycemia and altered mental status.
   .
   # altered mental status: essentially back to baseline and most likely
   due to hypoglycemia.
   .
   # hypoglycemia: likely due to insulin receptor autoantibody syndrome.
   h/o multiple hypoglycemic events attributed to syndrome. Has resolved
   and is now slightly hyperglycemic, will d/c D5W and continue to monitor
   fingersticks for now. If stable may be able to go to the floor for
   further management. His PCP and [**Name9 (PRE) 276**] physician were emailed regarding
   his admission, as this has been a chronic issue for the patient with
   multiple admissions and ED visits.
   -          d/c fluids
   -          q2 FS checks
   -          hold outpt insulin regimen for now
   .
   # facial edema: Unclear etiology. This may be secondary to uremic
   picture and his whole body fluid overload on presentation. Much
   improved today, and likely responded well to lasix yesterday.
   - continue lasix prn and monitor for improvement
   - avoid unneccessary IVF
   .
   # hypothermia: Resolved.
   .
   # Diabetes Mellitus: type 1, since age 16 on insulin. As above,
   frequent hypoglycemic episodes attributed to anti-insulin Ab.
   - continue prednisone for now per rheumatology
   - holding lantus
   - ISS
   .
   # hypertension: hypertensive currently and h/o more significant
   hypertension in past. On multiple medications c/b LVH and diastolic
   CHF.
   - cont clonidine, minoxidil, diltiazem, toprol XL, doxazosin with
   holding parameters
   .
   # Chronic diastolic heart failure with LVH: No evidence of
   decompensated CHF. No current evidence of ischemia.  Improved with
   lasix for fluid overload.
   - cont diltiazem and toprol XL
   - strict HR and BP control
   - strict I/Os, daily weights
   .
   # Chronic kidney disease: Renal was consulted for follow-up. He has
   been followed as outpatient for several years.  Qtn: should we start
   epo during this admission? He has also been screened for
   transplant,unsure whether his noncompliance will play a role in this.
   -r/u renal recs
   - cont sevelamer
   - renally dose all meds
   .
   # Anemia: attributed to chronic kidney disease. Most recent baseline
   low to mid 20s, highest low 30s. Currently within most recent baseline.
   No evidence of bleeding currently so unclear as to what could have
   caused the acute drop today. Given low 20s is his baseline will not
   transfuse at this time
   - QD Hct unless evidence of bleeding
   - guiaic all stools
   .
   # Hypothyroidism: h/o [**Doctor Last Name 598**] Disease per prior reports.
   - f/u fT4
   - cont levothyroxine
   .
   # Hyperlipidemia: cont statin
   .
   # FEN: advance diet. Then ADAT to low salt, renal diet
   - nephrocaps, iron
   - calcium, calcitriol
   .
   # PPx: heparin sc. PPI as on steroids. Bowel regimen.
   - cont Bactrim per outpt dose given immunosuppression
   .
   # ACCESS: 18G & 20G PIV
   .
   # CODE: FULL
   .
   # COMM: [**Name (NI) 338**] [**Name (NI) 3636**] (sister) listed as contact in [**Name (NI) 1163**],
   [**Telephone/Fax (1) 3637**] (work), [**Telephone/Fax (1) 3638**]. Could not be contact[**Name (NI) **]
   .
   # DISP: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-10-31**] 10:18 AM
   18 Gauge - [**2126-10-31**] 10:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-11-02 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Fingersticks to 400s, gave 15U total overnight.
   Allergies:
   Tapazole (Oral) (Methimazole)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2126-11-1**] 12:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  no complaints
   Flowsheet Data as of  [**2126-11-2**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 72 (72 - 85) bpm
   BP: 130/74(85) {126/61(80) - 167/96(114)} mmHg
   RR: 17 (11 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  1,490 mL
                  PO:
                                                                    500 mL
                  TF:
   IVF:
                                                                    990 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    500 mL
   Urine:
                                                                  1,680 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -190 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   GEN:NAD, pleasant and interactive
   HEENT:anicteric, pale but moist mucosa, facial edema improved since
   admission, no oral lesions
   CV: RRR S1S2 no murmurs appreciated
   PULM: clear bilaterally
   ABD: soft nondistended nontender +bs
   EXT: warm, well perfused, 2+ pitting bipedal edema to ankles, 1+dp
   pulses 2+ radial pulses
   NEURO: alert and oriented, appropriate
   Labs / Radiology
   139 K/uL
   6.7 g/dL
   310 mg/dL
   6.2 mg/dL
   28 mEq/L
   4.1 mEq/L
   101 mg/dL
   101 mEq/L
   139 mEq/L
   20.1 %
   4.8 K/uL
        [image002.jpg]
                             [**2126-10-31**]  09:45 AM
                             [**2126-10-31**]  04:43 PM
                             [**2126-11-1**]  04:13 AM
                             [**2126-11-1**]  05:24 AM
                             [**2126-11-1**]  04:07 PM
   WBC
   4.8
   Hct
   18.4
   20.1
   Plt
   139
   Cr
   6.4
   6.2
   6.2
   TCO2
   30
   Glucose
   75
   111
   137
   310
   Other labs:, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   55 year old male with a history of type 1 diabetes due to insulin
   receptor autoantibody syndrome on immunosupression, chronic kidney
   disease who is admitted for hypoglycemia and altered mental status.
   .
   # Altered mental status: back to baseline and most likely due to
   hypoglycemia. Resolved
   .
   # Hypoglycemia/Diabetes Mellitus: likely due to insulin receptor
   autoantibody syndrome, type 1 DM. Overnight became hyperglycemic thus
   will need his insulin regimen restarted. Will consult [**Last Name (un) 276**] regarding
   starting him back on insulin. Given he is no longer hypoglycemic and
   fingersticks are q4 he will likely be called out to medical floor
   today. PCP is aware of his admission as is the renal service who has
   been involved in his care for quite some time.
   -          Restart insulin regimen [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] recs
   -          Q4 FS checks
   .
   # Facial edema: Unclear etiology. This may be secondary to uremia and
   his whole body fluid overload on presentation. Has improved since
   admission. We restarted aspirin yesterday  since this is unlikely to be
   the cause of his facial edema. He denies any trouble swallowing,
   breathing.
   - continue lasix and monitor for improvement
   .
   # Hypertension: continue clonidine, minoxidil, diltiazem, toprol XL,
   doxazosin as per home regiment. BP has been well controlled over the
   last 24hrs.
   .
   # Chronic diastolic heart failure with LVH: No evidence of
   decompensated CHF. No current evidence of ischemia. Will restart his
   home dose of lasix to continue diuresis.
   - cont diltiazem and toprol XL
   -lasix 80 po bid
   - strict I/Os, daily weights
   .
   # Chronic kidney disease: Renal following. He is well known to the
   service, has been screened for kidney transplant but med compliance is
   an issue.
   - r/u renal recs
   - cont sevelamer
   - renally dose all meds
   .
   # Anemia: attributed to chronic kidney disease but on iron studies he
   is also iron deficient. Most recent baseline low to mid 20s, highest
   low 30s. Currently within most recent baseline Given low 20s is his
   baseline will not transfuse at this time.
   - QD Hct unless evidence of bleeding
   - guaiac stools if hct continues to drop
   -iron supplementation
   .
   # Hypothyroidism: h/o [**Doctor Last Name 598**] Disease per prior reports. Slightly
   elevated TSH but normal fT4.
   - cont levothyroxine
   .
   # Hyperlipidemia: cont statin
   .
   # FEN: renal/cardiac diet.
   - nephrocaps, iron
   - calcium, calcitriol
   .
   # PPx: heparin sc. PPI as on steroids. Bowel regimen.
   - cont Bactrim per outpt dose given immunosuppression
   .
   # ACCESS: 18G & 20G PIV
   .
   # CODE: FULL
   .
   # COMM: [**Name (NI) 338**] [**Name (NI) 3636**] (sister) listed as contact in [**Name (NI) 1163**],
   [**Telephone/Fax (1) 3637**] (work), [**Telephone/Fax (1) 3638**]. Could not be contact[**Name (NI) **]
   .
   # DISP: call out to floor
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ANEMIA, CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-10-31**] 10:18 AM
   18 Gauge - [**2126-10-31**] 10:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2126-11-2**] 15:52 ------

2126-11-04 05:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2126-11-3**] 04:30 PM
   Venipuncture
     * Returned to icu with hyperglycemia, on insulin drip
     * Given dinner, PO insulin
     * Hct drop to 17 from 19 -> T&S active, needs blood transfusion
       consent
     * Insulin gtt stoped, BG 130s in am. After breakfast BG 400s
   Allergies:
   Tapazole (Oral) (Methimazole)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   ISS
   EPO
   Ferrous sulfate
   Nephrocaps
   Doxazosin
   Dilt
   Clonidone
   Calcitriol
   Levothyroxine
   Minoxidil
   Calcium carbonate
   Rosuvastatin
   Metoprolol XL
   Colace
   Bisacodyl
   Pantoprazole
   Sevelamer
   Allopurinol
   Prednisone
   Fusosemide
   Bactrim
   Asa
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-4**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 83 (76 - 84) bpm
   BP: 0/0(0) {121/61 - 182/86(104)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 95% (92-100)
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                    258 mL
                                                                      6 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    138 mL
                                                                      6 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                      0 mL
   Urine:
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    108 mL
                                                                      6 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   GEN:NAD, pleasant and interactive
   HEENT:anicteric, pale but moist mucosa, facial edema improved since
   admission, no oral lesions
   CV: RRR S1S2 2/6 SEM
   PULM: clear bilaterally
   ABD: soft nondistended nontender +bs
   EXT: warm, well perfused, 2+ pitting bipedal edema to ankles, 1+dp
   pulses 2+ radial pulses
   NEURO: alert and oriented, appropriate
   Labs / Radiology
   130 K/uL
   6.1 g/dL
   94 mg/dL
   6.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   109 mg/dL
   99 mEq/L
   136 mEq/L
   17.1 %
   6.8 K/uL
        [image002.jpg]
   Cr: 6.6 to 6.2 to 6.8
   BG: 464, 433, 343, 300, 136, 127, 111, 133, 123, 125, 118, 123, 160,
   126, 136, 444, 431
   Osm: 328 on [**11-3**]
   Micro: [**10-31**] Urine NG
   12.4, [**11-3**] Blood pending
   [**11-3**] urine pending.
                             [**2126-10-31**]  09:45 AM
                             [**2126-10-31**]  04:43 PM
                             [**2126-11-1**]  04:13 AM
                             [**2126-11-1**]  05:24 AM
                             [**2126-11-1**]  04:07 PM
                             [**2126-11-2**]  06:45 AM
                             [**2126-11-3**]  01:51 PM
                             [**2126-11-3**]  07:47 PM
                             [**2126-11-4**]  04:06 AM
   WBC
   4.8
   6.4
   6.6
   6.8
   Hct
   18.4
   20.1
   19.8
   19.0
   17.1
   Plt
   139
   141
   153
   130
   Cr
   6.4
   6.2
   6.2
   6.3
   6.6
   6.2
   6.8
   TCO2
   30
   Glucose
   75
   111
   137
   310
   135
   371
   135
   94
   Other labs: PT / PTT / INR:11.7/19.6/1.0, ALT / AST:27/24, Alk Phos / T
   Bili:42/0.2, Differential-Neuts:88.4 %, Lymph:9.9 %, Mono:1.5 %,
   Eos:0.3 %, Lactic Acid:0.5 mmol/L, LDH:367 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   55 year old male with a history of type 1 diabetes due to insulin
   receptor autoantibody syndrome on immunosupression, chronic kidney
   disease who was initially admitted for hypoglycemia and altered mental
   status now presents to MICU with hyperglycemia.
   .
   # Hyperglycemia:  Patient has type 1 DM and insulin receptor
   autoantibody syndrome which makes tight glycemic control hard.
   Followed by endocrinology and rheumatology. Unclear precipitant for
   hyperglycemia but most likely due to increased oral intake.  Has been
   on prednisone for a while but this could contribute as well.  No signs
   or symptoms of infection or ischemia.  UA not suspicous for infection
   but has >1000 glucose without ketones.  No anion gap in serum.
   - Insulin drip started at 1 U, nadired at 10 U/hr but titrated off
   overnight. BG this am 136. However after breakfast glucose again in
   400s. [**Last Name (un) 276**] notified and said not to change regimen until they had
   seen the pt. Will continue to cover conservatively with prn humalog
   (12U for 400) until further [**Last Name (un) 276**] recs.
   - appreciate endocrinology and Rheumatology recommendations
   - will continue prednisone 15 mg [**Hospital1 **] for now (? Whether pt taking
   prednisone at home as there is no hypoglycemia in house)
   - BCx and UCx pending
   - per rheum will not offer additional immunosuppression as long as pt
   refusing HD
   .
   # altered mental status: Now resolved.  Most likely due to hypoglycemia
   given prior history of similar events.
   - insulin receptor autoAb syndrome management
   - close monitoring of MS to ensure no need for intubation
   .
   # facial edema: Improved since admission.  According to ED physicians
   and respiratory therapists who know patient well, these are not new
   findings. Most likely secondary to chronic renal insufficiency.  ?
   angioedema although no new meds recently.
   - lasix 80 mg [**Hospital1 **] for now
   - cont current steroid regimen
   - could consider bilateral upperextremity doppler to look for evidence
   of SVC occlusion.  Will try to minimize contrast given renal
   dysfunction.
   .
   # hypertension: Relatively normal now.  h/o more significant
   hypertension in past. On multiple medications c/b LVH and diastolic
   CHF.
   - cont clonidine, minoxidil, diltiazem, toprol XL, doxazosin with
   holding parameters
   .
   # Chronic diastolic heart failure with LVH: No evidence of
   decompensated CHF. No current evidence of ischemia.
   - cont diltiazem and toprol XL
   - strict HR and BP control
   - strict I/Os, daily weights
   - home furosemide as above
   .
   # Chronic kidney disease: Cr close to most recent baseline. Patient has
   been recommended to initiate hemodialysis but has refused.
   - appreciate renal recs
   - follow daily weights and I/Os
   - cont sevelamer
   - renally dose all meds
   .
   # Anemia: attributed to chronic kidney disease. Most recent baseline
   low to mid 20s, highest low 30s. Currently slightly decreased to 17
   compared to most recent baseline. No evidence of bleeding currently.
   - QD Hct unless evidence of bleeding
   - T+S
   - guiaic all stools
   -started EPO
   - pt refusing transfusions
   .
   # Hyponatremia:  Na to 132.  Recent baseline is at 139-144.  Still
   total body volume up however improved since admission in the setting of
   diuresis.
   - NA improved to 136
   .
   # Hypothyroidism: h/o [**Doctor Last Name 598**] Disease per prior reports.  TSH 5.7 with
   fT4 of 1.1 on [**2126-11-1**].
   - cont levothyroxine
   .
   # Hyperlipidemia: cont statin
   .
   # FEN: NPO for now. Consider ADAT to low salt, renal diet if blood
   sugars improve.
   - nephrocaps, iron (increased to [**Hospital1 **])
   - calcium, calcitriol
   .
   # PPx: heparin sc. PPI as on steroids. Bowel regimen.
   - cont Bactrim per outpt dose given immunosuppression
   .
   # ACCESS: PIV
   .
   # CODE: Changed to DNI/DNR. Emailed PCP and [**First Name8 (NamePattern2) 6862**] [**Last Name (NamePattern1) 2053**] to inform of
   code change
   .
   # COMM: [**Name (NI) 338**] [**Name (NI) 3636**] (sister) listed as contact in [**Name (NI) 1163**],
   [**Telephone/Fax (1) 3637**] (work), [**Telephone/Fax (1) 3638**]. Could not be contact[**Name (NI) **]
   .
   # DISP: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-11-3**] 04:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of history and exam. Agree with Dr. [**Last Name (STitle) 4025**]
   assessment and plan.  We are aiming for loose control w/o ketosis as he
   is recurrently hypoglycemic at home. He is clear he would not want CPR
   or intubation and we will do our best to get him on a tolerable home
   regime. He is refusing transfusions but is aware of the risk.
   Time spent: 40 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2126-11-4**] 17:13 ------